US05869734
A. N,N'-Bis(benzyloxycarbonyl)-S-methyl-isothiourea
Benzylchloroformate (161 mL, 1075 mmol, Aldrich, 95%) was added slowly through an addition funnel at room temperature with vigorous stirring to a solution of the sulfate salt of 2-methyl-2-thiopseudourea (74.6 g, 525 mmol) in 1N sodium hydroxide solution (1050 mL, 1050 mmol) in a 5 L three-necked round bottom flask, equipped with a 250 mL addition funnel. After the addition, stirring was continued and the reaction was monitored by TLC. The reaction was finished in ca. 20 hours. After all mono-CBZ (benzyloxy carbonyl) intermediate disappeared, the reaction mixture was transferred to a 4 L separatory funnel. The aqueous layer was separated and extracted with hexanes (1.28 L). The extracts were combined with the methylene chloride layer. The combined organic layer was washed with 553 mL of NaH2PO4 (5.7%, 533 mL, wash pH ~5) and brine (2×533 mL). It was dried over sodium sulfate, filtered and concentrated on a rotovap. The resulting residual oil was dried on a high vacuum pump to a constant weight. The remaining benzyl chloroformate, benzyl chloride and possibly benzyl alcohol were further removed by a lyophilizer. The resulting thick oil crystallized on standing in about six hours. The solid was broken up and the drying was continued to a constant weight in two days. The crude title compound thus obtained (182 g, 97% yield), was pure enough by 1H NMR and TLC to be used for the next reaction without any further purification.

reactant | Benzylchloroformate | 1075 mmol, 161 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | 2-methyl-2-thiopseudourea | 525 mmol, 74.6 g | CSC(N)=N | C2H6N2S
reactant | sodium hydroxide | 1050 mmol, 1N, 1050 mL | [OH-].[Na+]
product | N,N'-Bis(benzyloxycarbonyl)-S-methyl-isothiourea | 97% yield | C(C1=CC=CC=C1)OC(=O)NC(SC)=NC(=O)OCC1=CC=CC=C1 | C18H18N2O4S
